US05039685
Benzophenone oxime (3.94 g, 20 mmol), 1-bromo-2-chloroethane (28.7 g, 200 mmol) and dried, powdered potassium carbonate (5.53 g, 80 mmol) in acetone (60 ml) were heated at reflux for 72 h. The reaction mixture was cooled and filtered and the filtrate was evaporated to an oily residue which was purified by "flash" chromatography (eluting with heptane/ethyl acetate 19/1) to provide diphenylmethanone O-(2-chloroethyl)oxime (3.82 g, 73%) as an oil, tlc rf 0.36 (SiO2, heptane/ethyl acetate 9/1).

reactant | Benzophenone oxime | 20 mmol, 3.94 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NO | C13H11NO
reactant | 1-bromo-2-chloroethane | 200 mmol, 28.7 g | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 80 mmol, 5.53 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | diphenylmethanone O-(2-chloroethyl)oxime | 3.82 g, 73% | ClCCON=C(C1=CC=CC=C1)C1=CC=CC=C1 | C15H14ClNO
